US06812226B2
(i) 1,1-Dimethylethyl 3-nitro-4-[4-(2-oxo-2H-3,1-benzoxazin-1(4H)-yl)piperidin-1-yl]benzoate
The product was prepared from 3-nitro-4-chloro-t-butylbenzoate (0.96 g) and 1-piperidin-4-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one hydrochloride (1.0 g) using the method of example 115 step (ii). Purification was by chromatography eluting with 50% ethyl acetate/isohexane. Yield 2.1 g as an oil.

reactant | 3-nitro-4-chloro-t-butylbenzoate | 0.96 g | [N+](=O)([O-])C=1C(=C(C(=O)[O-])C=CC1Cl)C(C)(C)C
reactant | 1-piperidin-4-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one hydrochloride | 1.0 g | Cl.N1CCC(CC1)N1C(OCC2=C1C=CC=C2)=O
product | 1,1-Dimethylethyl 3-nitro-4-[4-(2-oxo-2H-3,1-benzoxazin-1(4H)-yl)piperidin-1-yl]benzoate | [N+](=O)([O-])C=1C=C(C(=O)OC(C)(C)C)C=CC1N1CCC(CC1)N1C(OCC2=C1C=CC=C2)=O | C24H27N3O6
